### PR TITLE
feat: add Cslib/Computability/Languages/OmegaLanguage.lean

### PR DESCRIPTION
**Pull request by ctchou**
This is the first version of OmegaLanguage, which is an analogue of Mathlib.Computability.Language, but for infinite sequences.  We now have a more satisfactory definition of omegaPow, which enables more algebraic and much shorter proofs of the harder results (see the "main theorems" section of the main comment in OmegaLanguage.lean) than in:
https://github.com/ctchou/AutomataTheory/blob/main/AutomataTheory/Languages/Basic.lean
The results proved so far are sufficient for starting the development of the theory of omega-automata.  The main TODOs are results about omegaPow and map, which are not needed for now.

As part of this work, we added several new definitions and theorems about Language and OmegaSequence.flatten.  We also took this opportunity to change some infelicitous theorem names in Flatten.lean and Segment.lean and to use `namespace Nat` to remove the prefix `Nat.` from many places in Segment.lean.

### CODE REVIEW

File: Cslib/Foundations/Data/OmegaSequence/Defs.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+
+In this file we define `ωSequence` and its API functions.
+Most code below is adapted from Mathlib.Data.Stream.Defs.
+-/
+
+universe u v w
+variable {α : Type u} {β : Type v} {δ : Type w}
+
+/-- An `ωSequence α` is an infinite sequence of elements of `α`. -/
+def ωSequence (α : Type u) := ℕ → α
```
Comment (eric-wieser) [inline Cslib/Foundations/Data/OmegaSequence/Defs.lean]: This is `Stream'` from mathlib.

Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Defs.lean]: This PR is a bit out of date.  The `ωSequence` design that cslib currently settled on is this one: https://github.com/leanprover/cslib/pull/90.
Discussion thread: https://leanprover.zulipchat.com/#narrow/channel/513188-CSLib/topic/Automata/near/543524072

**Comment by ctchou** [comment]
Rebase on the current "omega-flatten".

File: Cslib/Computability/Languages/Language.lean [hunk 2]
```diff
@@ -0,0 +1,99 @@
...
+@[simp]
+theorem zero_trivial : (0 : Language α).Trivial :=
+  empty_diff _
+
+@[simp]
+theorem one_trivial : (1 : Language α).Trivial :=
+  diff_self
+
+theorem trivial_eq_zero_or_one
+    (h : l.Trivial) : l = 0 ∨ l = 1 :=
```
Comment (chenson2018) [inline Cslib/Computability/Languages/Language.lean]: There are several theorems like this that are short enough to go on one line, could you make this change throughout the PR?

File: Cslib/Computability/Languages/Language.lean [hunk 3]
```diff
@@ -0,0 +1,99 @@
...
+    · refine ⟨[], h_v, u, h_u, by simp⟩
+    · refine ⟨u, by grind, v, ?_, by simp⟩
+      rw [mem_sdiff_one]
+      simp_all
+  · rintro ⟨u, h_u, v, h_v, rfl⟩
+    rcases Classical.em (u = []) with rfl | h
+    · refine ⟨v, h_v, [], h_u, by simp⟩
+    · refine ⟨u, ?_, v, by grind, by simp⟩
+      rw [mem_sdiff_one]
+      simp_all
```
Comment (chenson2018) [inline Cslib/Computability/Languages/Language.lean]: Easier to read with `grind`:

```suggestion
theorem sdiff_one_mul : (l \ 1) * l = l * (l \ 1) := by
  ext x ; constructor
  · rintro ⟨u, h_u, v, h_v, rfl⟩
    rcases Classical.em (v = []) with rfl | h
    · use []; grind
    · use u; grind
  · rintro ⟨u, h_u, v, h_v, rfl⟩
    rcases Classical.em (u = []) with rfl | h
    · use v; grind
    · use u; grind
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 4]
```diff
@@ -0,0 +1,430 @@
...
+
+/-- Use the postfix notation ^ω` for `omegaPow`. -/
+@[notation_class]
+class OmegaPow (α : Type*) (β : outParam (Type*)) where
+  omegaPow : α → β
+
+postfix:1024 "^ω" => OmegaPow.omegaPow
+
+instance [Inhabited α] : OmegaPow (Language α) (ωLanguage α) :=
+  { omegaPow := omegaPow }
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]:
```suggestion
  ⟨omegaPow⟩
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 5]
```diff
@@ -0,0 +1,430 @@
...
+
+/-- Use the postfix notation ↗ω` for `omegaLim`. -/
+@[notation_class]
+class OmegaLim (α : Type*) (β : outParam (Type*)) where
+  omegaLim : α → β
+
+postfix:1024 "↗ω" => OmegaLim.omegaLim
+
+instance instOmegaLim : OmegaLim (Language α) (ωLanguage α) :=
+  { omegaLim := omegaLim }
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]:
```suggestion
  ⟨omegaLim⟩
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 6]
```diff
@@ -0,0 +1,430 @@
...
+
+theorem hmul_iSup {ι : Sort v} (p : ι → ωLanguage α) (l : Language α) :
+    (l * ⨆ i, p i) = ⨆ i, l * p i :=
+  image2_iUnion_right _ _ _
+
+theorem le_hmul_congr {l1 l2 : Language α} {p1 p2 : ωLanguage α} :
+    l1 ≤ l2 → p1 ≤ p2 → l1 * p1 ≤ l2 * p2 := by
+  intro h_l h_p s h_s
+  simp only [hmul_def, mem_image2] at h_s ⊢
+  tauto
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: We typically follow the style of putting as many named hypotheses to the left of the colon versus having arrows in the signature, especially because you immediately `intro` them. 

I'd also prefer `simp_all` to specifying the goal/hypothesis:


```suggestion
theorem le_hmul_congr {l1 l2 : Language α} {p1 p2 : ωLanguage α} (hl : l1 ≤ l2) (hp : p1 ≤ p2) :
    l1 * p1 ≤ l2 * p2 := by
  intros _
  simp_all only [hmul_def, mem_image2]
  tauto
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 7]
```diff
@@ -0,0 +1,430 @@
...
+
+theorem le_omegaPow_congr [Inhabited α] {l1 l2 : Language α} :
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: Same suggestions here as my previous comment.

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 8]
```diff
@@ -0,0 +1,430 @@
...
+theorem one_omegaPow [Inhabited α] :
+    (1 : Language α)^ω = ⊥ := by
+  rw [← omegaPow_of_sdiff_one, Language.one_sdiff_one, zero_omegaPow]
+
+@[simp, scoped grind =]
+theorem omegaPow_of_trivial [Inhabited α]
+    (h : l.Trivial) : l^ω = ⊥ := by
+  obtain (rfl | rfl) := Language.trivial_eq_zero_or_one h
+  · exact zero_omegaPow
+  · exact one_omegaPow
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]:
```suggestion
  cases (Language.trivial_eq_zero_or_one h) <;> simp_all
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 9]
```diff
@@ -0,0 +1,430 @@
...
+
+theorem omegaPow_eq_empty [Inhabited α]
+    (h : l^ω = ⊥) : l.Trivial := by
+  by_contra h_contra
+  obtain ⟨x, h_x⟩ := nonempty_iff_ne_empty.mpr h_contra
+  suffices h' : (const x).flatten ∈ l^ω by simp [h] at h'
+  refine ⟨const x, rfl, ?_⟩ ; simpa
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: Easier to read:

```suggestion
  exact ⟨const x, rfl, by simpa⟩
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 10]
```diff
@@ -0,0 +1,430 @@
...
+/-- An alternative characterization of `l * p`. -/
+theorem hmul_seq_prop :
+    l * p = { s | ∃ k, s.take k ∈ l ∧ s.drop k ∈ p } := by
+  ext s ; constructor
+  · rintro ⟨x, h_x, t, h_t, rfl⟩
+    refine ⟨x.length, ?_, ?_⟩
+    · simpa [take_append_of_le_length]
+    · simpa [drop_append_ωSequence]
+  · rintro ⟨k, h1, h2⟩
+    refine ⟨s.take k, h1, s.drop k, h2, by simp⟩
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: I believe `exact` is preferred when at the end of a proof:
```suggestion
    exact ⟨s.take k, h1, s.drop k, h2, by simp⟩
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 11]
```diff
@@ -0,0 +1,430 @@
...
+  ext s ; constructor
+  · rintro ⟨xs, rfl, h_xs⟩
+    simp [forall_and, List.ne_nil_iff_length_pos] at h_xs
+    refine ⟨xs.cumLen, by grind [cumLen_strictMono], by simp [cumLen_zero], ?_⟩
+    grind
+  · rintro ⟨f, hm, h0, he⟩
+    refine ⟨(fun m ↦ s.extract (f m) (f (m + 1))), ?_, ?_⟩
+    · apply strictMono_flatten hm h0
+    · intro m
+      suffices h : s.extract (f m) (f (m + 1)) ∈ l \ 1 by exact h
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: Use `change` if you just need to switch to a definitionally equal goal
```suggestion
      change s.extract (f m) (f (m + 1)) ∈ l \ 1
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 12]
```diff
@@ -0,0 +1,430 @@
...
+
+theorem omegaPow_le_hmul_omegaPow' [Inhabited α] (l : Language α) :
+    l^ω ≤ (l \ 1) * l^ω := by
+  rintro s ⟨xs, rfl, h_xs⟩
+  simp only [Language.mem_sdiff_one, ne_eq, forall_and, List.ne_nil_iff_length_pos] at h_xs
+  refine ⟨xs.head, ?_, xs.tail.flatten, ⟨xs.tail, rfl, ?_⟩, by grind⟩
+  · rw [Language.mem_sdiff_one]
+    grind
+  · simp only [ωSequence.get_tail, Language.mem_sdiff_one, ne_eq, List.ne_nil_iff_length_pos]
+    grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]:
```suggestion
  refine ⟨xs.head, ?_, xs.tail.flatten, ⟨xs.tail, rfl, ?_⟩, ?_⟩ <;>
  grind [Language.mem_sdiff_one, Language.mem_sdiff_one, List.ne_nil_iff_length_pos]
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 13]
```diff
@@ -0,0 +1,430 @@
...
+theorem hmul_omegaPow_eq_omegaPow [Inhabited α] (l : Language α) :
+    l * l^ω = l^ω := by
+  apply le_antisymm
+  · apply hmul_omegaPow_le_omegaPow
+  · apply omegaPow_le_hmul_omegaPow
+
+theorem omegaPow_le_kstar_omegaPow [Inhabited α] (l : Language α) :
+    l^ω ≤ (l∗)^ω := by
+  apply le_omegaPow_congr
+  simp
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]:
```suggestion
  simp [le_omegaPow_congr]
```

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 14]
```diff
@@ -0,0 +1,430 @@
...
+
+theorem kstar_omegaPow_le_omegaPow [Inhabited α] (l : Language α) :
+    (l∗)^ω ≤ l^ω := by
+  suffices h : (l∗)^ω ≤ (l \ 1) * (l∗)^ω by exact omegaPow_coind h
+  calc
+    _ ≤ (l∗ \ 1) * (l∗)^ω := by apply omegaPow_le_hmul_omegaPow'
+    _ = (l \ 1) * l∗ * (l∗)^ω := by simp
+    _ = (l \ 1) * (l∗ * (l∗)^ω) := by rw [mul_hmul]
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: Some of these can be written directly as terms versus needing `exact` or `rw`. I won't comment on further instances since this is maybe personal preference.

```suggestion
    _ ≤ (l∗ \ 1) * (l∗)^ω := omegaPow_le_hmul_omegaPow' _
    _ = (l \ 1) * l∗ * (l∗)^ω := by simp
    _ = (l \ 1) * (l∗ * (l∗)^ω) := mul_hmul
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 15]
```diff
@@ -114,10 +114,80 @@ theorem flatten_cons [Inhabited α] {ls : ωSequence (List α)} (h_ls : ∀ k, (
...
     (n : ℕ) : (ls.take n).flatten ++ω (ls.drop n).flatten = ls.flatten := by
   induction n generalizing ls <;> grind [tail_eq_drop, take_succ]
 
+/-- The length of `(ls.take n).flatten` is `ls.cumLen n`. -/
+@[simp, scoped grind =]
+theorem length_flatten_take [Inhabited α] {ls : ωSequence (List α)} (h_ls : ∀ k, (ls k).length > 0)
+    (n : ℕ) : (ls.take n).flatten.length = ls.cumLen n := by
+  induction n
+  case zero => grind
+  case succ n h_ind => grind [take_succ']
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]:
```suggestion
  induction n <;> grind [take_succ']
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 16]
```diff
@@ -114,10 +114,80 @@ theorem flatten_cons [Inhabited α] {ls : ωSequence (List α)} (h_ls : ∀ k, (
...
+/-- `(s.toSegs f).cumLen` is `f` itself. -/
+@[simp, scoped grind =]
+theorem segment_toSegs_cumLen [Inhabited α] {f : ℕ → ℕ}
+    (hm : StrictMono f) (h0 : f 0 = 0) (s : ωSequence α) :
+    (s.toSegs f).cumLen = f := by
+  ext n ; induction n
+  case zero => grind
+  case succ n h_ind =>
+    have := hm (show n < n + 1 by omega)
+    grind [toSegs_def]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean]:
```suggestion
  ext n
  have (n' : ℕ) := hm (show n' < n' + 1 by omega)
  induction n <;> grind [toSegs_def]
```

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean [hunk 17]
```diff
@@ -114,10 +114,80 @@ theorem flatten_cons [Inhabited α] {ls : ωSequence (List α)} (h_ls : ∀ k, (
...
+
+/-- `(s.toSegs f).flatten` is `s` itself. -/
+@[simp, scoped grind =]
+theorem strictMono_flatten [Inhabited α] {f : ℕ → ℕ}
+    (hm : StrictMono f) (h0 : f 0 = 0) (s : ωSequence α) :
+    (s.toSegs f).flatten = s := by
+  ext k ; rw [flatten_def, segment_toSegs_cumLen hm h0, toSegs_def]
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Flatten.lean:184]: Having to rewrite with `segment_toSegs_cumLen` despite having a `grind` annotation on it makes me question that annotation's usefulness.

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 18]
```diff
@@ -0,0 +1,430 @@
...
+    case succ n h_ind =>
+      have h1 : s.drop (f (n + 1)) ∈ p := by grind
+      have h2 : f (n + 1 + 1) = nxt_n (f (n + 1)) h1 := by
+        unfold f at h1 ⊢
+        rw [iter_helper]
+        simp [h1]
+      grind
+  refine ⟨f, ?_, by simp [f, iter_helper], by grind⟩
+  apply strictMono_nat_of_lt_succ
+  grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaLanguage.lean]:
```suggestion
theorem omegaPow_coind' [Inhabited α] (h_nn : [] ∉ l) (h_le : p ≤ l * p) : p ≤ l^ω := by
  intro s h_s
  have h_nxt (m) (hm : s.drop m ∈ p) : ∃ n > m, s.extract m n ∈ l ∧ s.drop n ∈ p := by
    obtain ⟨k, _⟩ := hmul_seq_prop ▸ h_le hm
    use m + k 
    grind [extract_eq_drop_take]
  choose nxt_n nxt_p using h_nxt
  let f := iter_helper (fun n ↦ s.drop n ∈ p) nxt_n
  have h_f (n) : f n < f (n + 1) ∧ s.extract (f n) (f (n + 1)) ∈ l ∧ s.drop (f (n + 1)) ∈ p := by
    induction n <;> grind [iter_helper]
  rw [omegaPow_seq_prop]
  use f
  grind [strictMono_nat_of_lt_succ, iter_helper]
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
I did a little less `grind` golfing this review. Partly because you'd already done a bit, partly because you used more of `simp` (which is fine). The places I did make `grind` suggestions are where I felt it was particularly advantageous or you had some awkwardness in switching back and forth from `simp` to `grind`.

File: Cslib/Computability/Languages/Language.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.

File: Cslib/Computability/Languages/Language.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 5 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 6 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 7 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 8 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/Language.lean [hunk 19]
```diff
@@ -0,0 +1,99 @@
...
+
+namespace Language
+
+open Set List
+open scoped Computability
+
+variable {α : Type _} {l : Language α}
+
+/-- A language is trivial iff it contains at most the empty list `[]`. -/
+def Trivial (l : Language α) := l \ 1 = 0
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]: Isn't this just `l ≤ 1`? `le_one` is shorter than `trivial`, so I'd encourage you to use that spelling instead.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 10 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 11 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 12 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 13 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 14 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 15 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 16 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean]: Fixed.  Wow, I have never seen the `have (n' : ℕ) := ...` syntax before.

File: Cslib/Computability/Languages/Language.lean (hunk 19 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: It is.  But since the expression `l \ 1` appears many times in OmegaLanguage.lean, I thought I should define `Trivial` in terms of it.

File: Cslib/Computability/Languages/Language.lean [hunk 20]
```diff
@@ -0,0 +1,99 @@
...
+    exact trivial_eq_zero_or_one h
+  · rintro (rfl | rfl)
+    · exact zero_trivial
+    · exact one_trivial
+
+@[simp, scoped grind =]
+theorem mem_sdiff_one (x : List α) :
+    x ∈ (l \ 1) ↔ x ∈ l ∧ x ≠ [] :=
+  Iff.rfl
+
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean:49]: I don't think that we should be using `\` for `Language`; instead I think mathlib should provide `-` notation. Then this is `mem_sub` from https://github.com/leanprover-community/mathlib4/pull/30913.

File: Cslib/Computability/Languages/Language.lean [hunk 21]
```diff
@@ -0,0 +1,99 @@
...
+@[simp]
+theorem one_sdiff_one :
+    1 \ 1 = (0 : Language α) := by
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]: This is true as `x \ x`, and is `tsub_self` with  https://github.com/leanprover-community/mathlib4/pull/30913

File: Cslib/Foundations/Data/OmegaSequence/Flatten.lean (hunk 17 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Flatten.lean:184]: I removed that annotation.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 18 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/Language.lean [hunk 22]
```diff
@@ -0,0 +1,99 @@
...
+    · apply join_mem_kstar
+      intro y h_y
+      specialize h_xl y (by grind)
+      grind
+  · rintro ⟨y, ⟨h_y, h_1⟩, z, h_z, rfl⟩
+    refine ⟨?_, ?_⟩
+    · apply (show l * l∗ ≤ l∗ by exact mul_kstar_le_kstar)
+      refine ⟨y, h_y, z, h_z, rfl⟩
+    · simp only [one_def, mem_singleton_iff, append_eq_nil_iff] at h_1 ⊢
+      tauto
```
Comment (chenson2018) [inline Cslib/Computability/Languages/Language.lean]: Sorry, forgot to hit "Comment" on this one:
```suggestion
theorem kstar_sdiff_one : l∗ \ 1 = (l \ 1) * l∗ := by
  ext x ; constructor
  · rintro ⟨h1, h2⟩
    obtain ⟨xl, rfl, h_xl⟩ := kstar_def_nonempty l ▸ h1
    have h3 : ¬ xl = [] := by grind [one_def]
    obtain ⟨x, xl', h_xl'⟩ := exists_cons_of_ne_nil h3
    have := h_xl x
    refine ⟨x, ?_, xl'.flatten, ?_, ?_⟩ <;> grind [join_mem_kstar]
  · rintro ⟨y, ⟨h_y, h_1⟩, z, h_z, rfl⟩
    refine ⟨?_, ?_⟩
    · apply (show l * l∗ ≤ l∗ by exact mul_kstar_le_kstar)
      exact ⟨y, h_y, z, h_z, rfl⟩
    · grind [one_def, append_eq_nil_iff]
```

**Comment by ctchou** [comment]
@chenson2018's comments have been incorporated.

File: Cslib/Computability/Languages/Language.lean (hunk 20 above)
Comment (chenson2018) [reply Cslib/Computability/Languages/Language.lean:49]: I agree with this.

(There is a typo in the link though, should be https://github.com/leanprover-community/mathlib4/pull/30913)

File: Cslib/Foundations/Data/OmegaSequence/Defs.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Defs.lean]: This PR has been updated (see below).

File: Cslib/Computability/Languages/Language.lean (hunk 20 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean:49]: Your link above sent me to the mathlib3 repo ...

File: Cslib/Computability/Languages/Language.lean (hunk 22 above)
Comment (chenson2018) [reply Cslib/Computability/Languages/Language.lean]: (I took care of this one)

File: Cslib/Computability/Languages/Language.lean (hunk 20 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean:49]: Also, are you sure `-` is the right notation for `\`?  Note that for `Language`, `+` is idempotent: `x + x = x`.  If we subtract `x` from both sides and apply the usual relation between `+` and `-` (namely, `x + y - y = x`, we get `x = 0` for any `x`.  Since this`-` does not behave in the same way as the usual `-`, should we use that notation at all?

Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean:49]: It seems that the usual presentation of semi-ring and Kleene algebra have only `+` and no `-`:
https://en.wikipedia.org/wiki/Semiring
https://en.wikipedia.org/wiki/Kleene_algebra

Comment (chenson2018) [reply Cslib/Computability/Languages/Language.lean:49]: What Eric adds (see my link) is that it interacts with `+` as described by [OrderedSub](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Sub/Defs.html#OrderedSub). This seems fine to me.

File: Cslib/Computability/Languages/Language.lean (hunk 22 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Thanks!

File: Cslib/Computability/Languages/Language.lean (hunk 19 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: I see what you mean now.  I will make the change.

Comment (eric-wieser) [reply Cslib/Computability/Languages/Language.lean]: If you use the `le_one` spelling then [`tsub_eq_zero_of_le`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Order/Sub/Basic.html#tsub_eq_zero_of_le) is enough to recover the equality

Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Changed.

File: Cslib/Computability/Languages/Language.lean [hunk 23]
```diff
@@ -0,0 +1,83 @@
...
+theorem le_one_eq_zero_or_one (h : l.le_one) : l = 0 ∨ l = 1 :=
+  subset_singleton_iff_eq.mp <| diff_eq_empty.mp h
+
+theorem le_one_iff : l.le_one ↔ l = 0 ∨ l = 1 := by
+  constructor
+  · intro h
+    exact le_one_eq_zero_or_one h
+  · rintro (rfl | rfl)
+    · exact zero_le_one
+    · exact one_le_one
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]: It's possible https://github.com/leanprover-community/mathlib4/pull/30915 can help golf this.

File: Cslib/Computability/Languages/Language.lean [hunk 24]
```diff
@@ -0,0 +1,83 @@
...
+/-- A language is le_one iff it contains at most the empty list `[]`. -/
+def le_one (l : Language α) := l \ 1 = 0
+
+@[simp]
+theorem zero_le_one : (0 : Language α).le_one :=
+  empty_diff _
+
+@[simp]
+theorem one_le_one : (1 : Language α).le_one :=
+  diff_self
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]: To be clear, my suggestion is to delete these three declarations entirely; `one_le_one` is then just `le_rfl`, and `zero_le_one` is `_root_.zero_le_one`.

**Comment by ctchou** [comment]
OK, I got rid of Language.le_one and all uses of sdiff on languages.  Now the definition of omegaPow uses `-` instead of `\` and all previous occurrences of `l.le_one` are replaced by `l ≤ 1`.

File: Cslib/Computability/Languages/Language.lean (hunk 23 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: I'll refactor after https://github.com/leanprover-community/mathlib4/pull/30915 is in mathlib.

File: Cslib/Computability/Languages/Language.lean [hunk 25]
```diff
@@ -21,40 +21,46 @@ open scoped Computability
...
-theorem mem_sdiff_one (x : List α) : x ∈ (l \ 1) ↔ x ∈ l ∧ x ≠ [] :=
+theorem mem_sdiff_one (x : List α) : x ∈ (l - 1) ↔ x ∈ l ∧ x ≠ [] :=
   Iff.rfl
 
 @[simp]
-theorem one_sdiff_one : 1 \ 1 = (0 : Language α) := by
-  ext x
-  simp only [sdiff_self, notMem_zero, iff_false]
-  exact id
+theorem one_sdiff_one : 1 - 1 = (0 : Language α) :=
```
Comment (chenson2018) [inline Cslib/Computability/Languages/Language.lean]: Couldn't you just use `tsub_self` directly instead of having this theorem?

File: Cslib/Computability/Languages/Language.lean [hunk 26]
```diff
@@ -0,0 +1,89 @@
...
+
+instance : OrderedSub (Language α) where
+  tsub_le_iff_right _ _ _ := sdiff_le_iff'
+
+-- ********** END temporary block **********
+
+theorem le_one_eq_zero_or_one (h : l ≤ 1) : l = 0 ∨ l = 1 :=
+  subset_singleton_iff_eq.mp h
+
+theorem le_one_iff : l ≤ 1 ↔ l = 0 ∨ l = 1 := by
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]: This can now be proved with `subset_singleton_iff_eq`

File: Cslib/Computability/Languages/Language.lean [hunk 27]
```diff
@@ -0,0 +1,89 @@
...
+  constructor
+  · intro h
+    exact le_one_eq_zero_or_one h
+  · rintro (rfl | rfl)
+    · exact zero_le_one
+    · exact le_refl 1
+
+@[simp, scoped grind =]
+theorem mem_sdiff_one (x : List α) : x ∈ (l - 1) ↔ x ∈ l ∧ x ≠ [] :=
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]:
```suggestion
theorem mem_sub_one (x : List α) : x ∈ (l - 1) ↔ x ∈ l ∧ x ≠ [] :=
```
etc throughout

File: Cslib/Computability/Languages/OmegaLanguage.lean [hunk 28]
```diff
@@ -0,0 +1,390 @@
...
+    p ≤ q ↔ (p : Set (ωSequence α)) ⊆ (q : Set (ωSequence α)) :=
+  Iff.rfl
+
+theorem bot_def : (⊥ : ωLanguage α) = (∅ : Set (ωSequence α)) :=
+  rfl
+
+theorem top_def : (⊤ : ωLanguage α) = (univ : Set (ωSequence α)) :=
+  rfl
+
+theorem join_def (p q : ωLanguage α) : p ⊔ q = (p ∪ q : Set (ωSequence α)) :=
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/OmegaLanguage.lean]: This operation is called `sup` in Lean, not `join` (and same for `inf` / `meet`)

File: Cslib/Computability/Languages/Language.lean (hunk 25 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.

File: Cslib/Computability/Languages/Language.lean (hunk 27 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaLanguage.lean (hunk 28 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/Language.lean (hunk 26 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.

File: Cslib/Computability/Languages/Language.lean (hunk 23 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: This theorem is now proved using Set.subset_singleton_iff_eq and hence does not need the PR.

**Comment by ctchou** [comment]
I created a new issue (https://github.com/leanprover/cslib/issues/132) to track the mathlib PR dependency.  But I can't figure out how to assign the label "pending upstream" to the issue.  @chenson2018, any idea how?

**Comment by chenson2018** [comment]
I added the label, maybe a permissions problem.

**Comment by ctchou** [comment]
Yes, probably a permission issue.  There is nothing I can click about labels, thought I see them on the RHS.

File: Cslib/Computability/Languages/Language.lean [hunk 29]
```diff
@@ -0,0 +1,77 @@
...
+-/
+
+namespace Language
+
+open Set List
+open scoped Computability
+
+variable {α : Type _} {l : Language α}
+
+-- ********** BEGIN temporary block **********
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]: `section from_mathlib4_30913` might be a nice way to mark this

File: Cslib/Computability/Languages/Language.lean [hunk 30]
```diff
@@ -0,0 +1,77 @@
...
+
+theorem le_one_iff_eq : l ≤ 1 ↔ l = 0 ∨ l = 1 :=
+  subset_singleton_iff_eq
+
+@[simp, scoped grind =]
+theorem mem_sub_one (x : List α) : x ∈ (l - 1) ↔ x ∈ l ∧ x ≠ [] :=
+  Iff.rfl
+
+@[simp, scoped grind =]
+theorem sub_one_mul : (l - 1) * l = l * (l - 1) := by
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]:
```suggestion
theorem sub_one_mul_comm : (l - 1) * l = l * (l - 1) := by
```
perhaps.

Is `(l - 1) * l = l * l - l` true?

File: Cslib/Computability/Languages/Language.lean [hunk 31]
```diff
@@ -0,0 +1,77 @@
...
+  ext x ; constructor
+  · rintro ⟨u, h_u, v, h_v, rfl⟩
+    rcases Classical.em (v = []) with rfl | h
```
Comment (eric-wieser) [inline Cslib/Computability/Languages/Language.lean]: Does `cases v` work as well here?

File: Cslib/Computability/Languages/Language.lean (hunk 29 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Good idea.  Fixed.

File: Cslib/Computability/Languages/Language.lean (hunk 31 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: `cases v` can work here.  But `cases u` would make the 2nd part of the proof uglier because the succinct `use u` needs to be replaced by a much longer `use (head _ :: tail _)` expression.  I prefer the current brevity and symmetry of the proof.  I do notice that because of the `grind`s, I can remove the `with ...` from both `rcases`.

File: Cslib/Computability/Languages/Language.lean (hunk 30 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: I'll change the theorem name.  I think `(l - 1) * l = l * l - l` is true, but that is not the equation I need in proving the theorem `hmul_omegaPow_le_omegaPow` in `OmegaLanguage.lean`.

File: Cslib/Computability/Languages/Language.lean (hunk 31 above)
Comment (eric-wieser) [reply Cslib/Computability/Languages/Language.lean]: In that case I'd recommend
```suggestion
    rcases eq_or_ne v [] with rfl | h
```

File: Cslib/Computability/Languages/Language.lean (hunk 30 above)
Comment (eric-wieser) [reply Cslib/Computability/Languages/Language.lean]: If it is true, I recommend separately proving `sub_one_mul` and `mul_sub_one`, and concluding the `comm` result from them.

File: Cslib/Computability/Languages/Language.lean (hunk 31 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: Fixed.

File: Cslib/Computability/Languages/Language.lean (hunk 30 above)
Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: As you suggested, I added `sub_one_mul` and `mul_sub_one`.  I also removed `sub_one_mul_comm` and replaced its use by the 2 new theorems.  `mul_sub_one` is proved using `sub_one_mul` via `reverse`.  You may want to add the new theorem `reverse_sub` to mathlib PR 30913.  I'll leave a comment there.

Comment (ctchou) [reply Cslib/Computability/Languages/Language.lean]: I also removed some `simp` attributes which I don't think are appropriate.

**Comment by ctchou** [comment]
Merge in the current main to make sure that there is no conflict.
